US05360802
Step 1: 1-(1,1-Dimethylethylcarbonylaminosulphonyl)-3-nitrobenzene:
To a mixture of trimethylacetic acid (5.55 g, 54 mmol), 3-nitrobenzenesulphonamide (11 g, 54 mmol) and 4-dimethylaminopyridine (6.65 g, 54 mmol) in anhydrous dichloromethane (400 ml), under an atmosphere of nitrogen, was added 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride (10.43 g, 54 mmol). The mixture was stirred at ambient temperature for 24 h. The mixture was extracted with 1M NaOH (50 ml) and the separated aqueous phase was mixed with dichloromethane (200 ml) and acidified with 5M HCl. The two layers were separated and the aqueous phase was further extracted with dichloromethane (2×100 ml). The combined organic phases were dried (Na2SO4) and evaporated to dryness. The resultant solid was recrystallised from methanol to afford the title compound (9 g, 58%) as a colourless solid. mp 178°-81° C. 1H NMR (360 MHz, D6-DMSO) δ 1.07 (9H, s), 7.95 (1H, t, J=8.0 Hz), 8.30-8.34 (1H, m), 8.52-8.56 (1H, m), 8.57-8.60 (1H, m), 12.02 (1H, brs).

reactant | trimethylacetic acid | 54 mmol, 5.55 g | CC(C(=O)O)(C)C | C5H10O2
reactant | 3-nitrobenzenesulphonamide | 54 mmol, 11 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N | C6H6N2O4S
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride | 54 mmol, 10.43 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 54 mmol, 6.65 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-(1,1-Dimethylethylcarbonylaminosulphonyl)-3-nitrobenzene | 9 g, 58% | CC(C)(C(=O)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C11H14N2O5S
